US07244747B2
In a 25 ml three necked flask fitted with a magnetic stirrer, under inert atmosphere, NaN3 (0.133 g, 2 mmol) is added to a solution of 4-[2,4-difluoro-3-(pyrrolidin-1-ylazo)-phenyl]-pyrrolidin-2-one a13 (0.2 g, 0.68 mmol) and HCl (1 N, 10 ml) at room temperature. After 1.5 h, the reaction mixture is quenched by NaOH (1N, 10 ml), extracted with CH2Cl2 (3 times), and the organic layer is dried on MgSO4, filtered and concentrated in vacuo to afford the crude 4-(3-azido-2,4-difluoro-phenyl)-pyrrolidin-2-one a14 which is used as such in the next step.

reactant | NaN3 | 2 mmol, 0.133 g | [N-]=[N+]=[N-].[Na+]
reactant | 4-[2,4-difluoro-3-(pyrrolidin-1-ylazo)-phenyl]-pyrrolidin-2-one | FC1=C(C=CC(=C1N=NN1CCCC1)F)C1CC(NC1)=O | C14H16F2N4O
solvent | HCl | 1 N, 10 ml | Cl | ClH
product | 4-(3-azido-2,4-difluoro-phenyl)-pyrrolidin-2-one | N(=[N+]=[N-])C=1C(=C(C=CC1F)C1CC(NC1)=O)F | C10H8F2N4O
